US04161538
4-(2-Oxocyclopentan-1-ylmethyl)phenylacetic Acid
Into a mixture of 20 ml of 47% hydrobromic acid and 15 ml of dioxane was dissolved 9.2 g of ethyl 4-(1-ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenylacetate and the solution was refluxed for 6 hours. The solvent was then removed by distillation from the reaction mixture, the residue was poured into ice-water and extracted with ether. The extract was washed with water, dried over anhydrous sodium sulfate, the solvent removed by distillation to give an oily substance, which was subjected to a vacuum distillation to yield 6.0 g of an oily product, b.p. 185°-195° C. at 0.7 mm Hg (bath temp.).

reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | ethyl 4-(1-ethoxycarbonyl-2-oxocyclopentan-1-ylmethyl)phenylacetate | 9.2 g | C(C)OC(=O)C1(C(CCC1)=O)CC1=CC=C(C=C1)CC(=O)OCC | C19H24O5
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-(2-Oxocyclopentan-1-ylmethyl)phenylacetic Acid | 6.0 g | O=C1C(CCC1)CC1=CC=C(C=C1)CC(=O)O | C14H16O3
